datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1C[O:72][C:11]([O-:12])=[N:10]1.O=C([O-])C1CC2=C(C=CC=C2)/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>O=C([O-])C1CC2=C(C=CC=C2)[N:23]1[CH:22]=[CH:21][CH:20]([N:10]1CC[O:72][C:11]1=[O:12])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C=C(C)CCCC[C:11](C)=[CH2:10].C[N+:23]1=[CH:22]/[C:21](=[CH:20]/[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)C2=C1C=CC=C2>>C=C(C)CCCC[C+:11](C)[CH2:10][CH:20]([C:21]1=[CH:22][N:23](C)C2=C1C=CC=C2)[C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=CC=C2 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([S:61]([C:10](=[C:11]=[N-:12])[C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)(=[O:62])=[O:72])C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10]([C:11]#[N:12])([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:11]1([H:10])[O:12]CC[O:62]1.Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>C[C:11]1=[O+:12]CC[O:62]1.Cl[C:20]1([H:10])[C:21](Cl)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25])=[O:32].C[C:10]1=[C:11]([O-:12])CC[O:72][C:61]1=[O:62]>>CC[O:33][C:31]([CH:20]([C:10]1(C)[C:11](=[O:12])CC[O:72][C:61]1=[O:62])[C:21](C)=[N:22][N:23]=[C:24](NC1=CC=CC=C1)[O-:25])=[O:32] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1CCCCC[C:11](=[CH2:10])CCCCC1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH2:10][C+:11]2CCCCCCCCCCC2)[C:31]2=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]2)C1(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C[Si](C)(C)C12[C:31]3([CH2+:20])[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+].C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[CH2:62][C:11](C)=[CH2:10]>>C[Si](C)(C)C12[C:31]3([CH2:20][CH2:10][C+:11](C)[CH2:62][Si:63]([Si](C)(C)C)([Si](C)(C)C)[Si](C)(C)C)[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+] 10,11=10,20"
"CC(C)(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)(C)C)=[O:23].CC[O:72][C:61]([N:10]=[C:11](C)[O-:12])=[O:62]>>CC[O:72][C:61]([N:10]([C:11](C)=[O:12])[N:20]([N:21]=[C:22]([O-:23])[O:33]C(C)(C)C)[C:41](=[O:42])[O:43]C(C)(C)C)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
CC1(C)C[C:61](=[O:62])[N-:10][C:71](=[O:72])C1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>CC1(C)C[C:61](=[O:62])[N:10]([CH:20]([C:31]2=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]2)[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)[C:71](=[O:72])C1 10=20
"CC(C)(C)[O:33][C:22]([CH:21]=[CH2:20])=[O:23].CCCC[Si:63](C)(C)[CH2:62][Si:11]([H:10])([CH2:72][Si:73](C)(C)CCCC)[CH2:82][Si:83](C)(C)CCCC>>CC(C)(C)[O:33][C:22](=[CH:21][CH2:20][H:10])[O-:23].CCCC[Si:63](C)(C)[CH2:62][Si+:11]([CH2:72][Si:73](C)(C)CCCC)[CH2:82][Si:83](C)(C)CCCC 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([C:81]([CH-:10][N+:71]2=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]2)=[O:82])C=C1.CC(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)C)=[O:23]>>CC(C)[O:33][C:22](=[N:21][N:20]([CH:10]([N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)[C:81](C1=CC=CC=C1)=[O:82])[C:41](=[O:42])[O:43]C(C)C)[O-:23] 10=20;20,21=21,22;22,23=23"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.O=[N+]([O-])C1=CC([N+](=O)[O-])=CC([C:61]([O-:10])=[O:62])=C1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([O:10][C:61](C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)=[O:62])[C:21]2=[C:22]([O-:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].FC(F)(F)[C:74]1=[CH:73][CH:72]=[C:71]([CH:10]=[C:11]=[N-:12])[CH:84]=[CH:85]1>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]([C:11]#[N:12])[C:71]1=[CH:72][CH:73]=[C:74](C(F)(F)F)[CH:85]=[CH:84]1)[C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)C)=[O:23].[NH-:10][C:61]#[N:62]>>CC(C)[O:33][C:22](=[N:21][N:20]([NH:10][C:61]#[N:62])[C:41](=[O:42])[O:43]C(C)C)[O-:23] 10=20;20,21=21,22;22,23=23"
"CCCC[CH:11]=[CH2:10].F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]2)=[CH:32]1>>CCCC[CH+:11][CH2:10][CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]1 10,11=10,20"
